* source BONUS
R_R6         N01065 N01065  1k  
R_R7         0 N01065  1k  
V_V1         N01065 0 5Vdc
R_R1         N01065 N01065  1k  
R_R2         N01065 N01065  1k  
R_R3         N01065 N01065  1k  
R_R4         N01065 N01065  1k  
R_R5         N01065 N01065  1k  
