* source PART_A
V_V1         0 N00249 50Vdc
R_R2         0 N00121  1k  
R_R1         N00121 N00213  1k  
E_U3         N00213 0 VALUE {LIMIT(V(N00249,N00121)*1E6,-15V,+15V)}
