* source R-2R DAC
R_R1         0 N03466  20k  
R_R7         N03466 N03420  10k  
R_R2         0 N03420  20k  
R_R8         N03420 N03400  10k  
R_R3         0 N03400  20k  
R_R12         0 N05965  20k  
R_R14         0 N00261  1k  
R_R4         N00574 N03252  20k  
R_R11         N03400 N05965  10k  
V_V1         N00574 0 -5Vdc
V_V1         0 N03252 -5Vdc
R_R5         0 N05965  20k  
E_U1         N00235 0 VALUE {LIMIT(V(N00574,N00261)*1E6,-15V,+15V)}
R_R6         N03252 N03466  10k  
R_R13         N00261 N00235  1k  
