* source  RESISTOR STRING DAC
R_R6         0 0  1k  
R_R7         0 0  1k  
V_V1         N01440 0 5Vdc
R_R1         0 N01440  1k  
R_R2         0 0  1k  
R_R3         0 0  1k  
R_R4         0 0  1k  
R_R5         0 0  1k  
R_R8         0 0  1M  
