* source Q6
R_R1         N00134 N00257  10k  
M_M2         N00134 N00346 0 0 Mbreakn           
V_VDD         N00257 0 2.5Vdc
V_V3         N00346 0 {a}
.PARAM  a=0
