* source Q1
V_Vcc         0 N00926 -10Vdc
R_R1         N00887 N00926  16k  
R_R2         0 N00887  4k  
R_Re_1         N01069 N01040  0.172k  
R_Rc         N05335 N00926  8.33k  
C_C2         N00801 N00887  10u  
R_Re_2         0 N01069  8.827k  
R_Rs         N00751 N00801  100  
Q_Q1         N05335 N00887 N01040 Qbreakn 
C_C3         0 N01069  100u  
V_V2         N00751 0  
+SIN 0 1m 100  0 0 0
C_C1         N05335 N05652  1u  
R_Rl         0 N05652  10k  
