* source Q2
R_R8         N07118 N01594  6.8k  
V_V2         0 N01594 -15Vdc
R_R1         N06225 N01594  330k  
R_R11         0 N15788  999999999k  
Q_Q2         N07118 N06490 N07932 Q2N3904
R_R9         N02014 N07932  30  
R_R2         N01795 N06225  330k  
V_V3         N01795 0 -15Vdc
R_R10         N01795 N02014  5.1k  
C_C1         N01290 N06225  10u  
R_R5         N01795 N01766  22k  
C_C3         N06490 N01766  10u  
Q_Q4         N01766 N06225 N13791 Q2N3906
R_R3         N01710 N01594  33k  
V_V1         N01290 0  
+SIN 0 40m 1k 0 0 0
R_R6         N06490 N01594  47k  
R_R7         N01795 N06490  22k  
R_R4         N13791 N01710  1.0k  
C_C4         N01795 N02014  100u  
C_C5         N07118 N15788  10u  
C_C2         N01710 N01594  10u  
