* source 2
D_D2         N00347 N00271 D1N4148 
D_D3         0 N00287 D1N4148 
D_D4         N00347 0 D1N4148 
V_V2         N00271 0  
+SIN 0 10 50 0 0 0
D_D5         N00271 N00287 D1N4148 
R_R1         N00271 0  1k  
