* source 3
R_R1         N01211 N01344  5k  
D_D1         0 N01290 D1N4740 
D_D2         N01344 N01290 D1N4740 
V_V1         N01211 0  
+SIN 0 50 50 0 0 0
