* source 4-2
D_D7         0 N12083 D1N4749 
D_D8         N11649 N12015 D1N4001 
C_C5         0 N12015  100uF  
R_R3         N12015 N12334  1k  
D_D9         0 N11649 D1N4001 
R_R4         N11946 N12083  1k  
D_D10         N11572 N12015 D1N4001 
D_D11         N12045 N11572 D1N4001 
D_D12         N12045 N11572 D1N4001 
V_V2         N11572 N11795  
+SIN 0 5 50 0 0 0
D_D13         N11572 N11946 D1N4001 
D_D14         0 N11795 D1N4001 
D_D15         N11795 N11946 D1N4001 
D_D6         0 N12334 D1N4736 
C_C8         N11946 0  100uF  
