* source Q15
M_M2         N00360 N00281 N00143 N00143 Mbreakp           
M_M3         N00143 N00281 0 0 Mbreakn           
V_VDD         0 N00360 0.8Vdc
V_Vin         N00281 0 {a}
.PARAM  a=0
